US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and treated with the mesylate of diethyleneglycol monophenyl ether (1.56 g). The mixture was heated at 60° C. overnight and worked up as in Example 20. The material was purified by HPLC (dichloromethane-ethyl acetate; 50:1) and crystallized from dichloromethane-hexane to provide 0.9 g of 4-[[2-[[2-(phenoxy)ethyl]oxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester, mp 75°-76° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | diethyleneglycol monophenyl ether | 1.56 g | C1(=CC=CC=C1)OCCOCCO | C10H14O3
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[[2-[[2-(phenoxy)ethyl]oxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.9 g | COC(C(C1=CC=C(C=C1)OCCOCCOC1=CC=CC=C1)=O)=O | C19H20O6
